US09108983B2
Step B: N-[4-[tert-Butyl(dimethyl)silyl]oxyphenyl]-2-ethoxy-pyrimidin-5-amine
4-[tert-Butyl(dimethyl)silyl]oxyaniline (1.8 g, 8 mmol) and 5-bromo-2-ethoxy-pyrimidine (1.6 g, 8 mmol) dissolved in anhydrous tetrahydrofuran (30 mL) are stirred for 1 hour at ambient temperature in the presence of sodium tert-butylate (4 mL, 2M solution in THF) and chloro(2-di-tert-butylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl)[2-(2-aminoethyl)-phenyl]palladium(II) (111 mg, 0.16 mmol). The reaction mixture is filtered over Celite and then evaporated to dryness. The residue is triturated in heptane to obtain the expected compound after filtration.

reactant | 4-[tert-Butyl(dimethyl)silyl]oxyaniline | 8 mmol, 1.8 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(N)C=C1 | C12H21NOSi
reactant | 5-bromo-2-ethoxy-pyrimidine | 8 mmol, 1.6 g | BrC=1C=NC(=NC1)OCC | C6H7BrN2O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | N-[4-[tert-Butyl(dimethyl)silyl]oxyphenyl]-2-ethoxy-pyrimidin-5-amine | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)NC=1C=NC(=NC1)OCC | C18H27N3O2Si
